US05116862
Oxalyl chloride (4.3 ml) was added to a stirred solution of but-3-yn-1-ol (3.5 g) in dry dichloromethane (75 ml), at 0°. The solution was stirred at 0° for 30 minutes and was then added, dropwise to a stirred solution of 3-hydroxymethyl-3-n-propyloxetane (6.4 g) and dry pyridine (30 ml) in dry dichloromethane (75 ml). The mixture was stirred at 20° for 24 hours. Water was added and the aqueous mixture was extracted with diethyl ether. The ethereal extracts were washed with 5% hydrochloric acid solution, saturated sodium hydrogen carbonate solution and finally water. The ethereal extracts were dried over anhydrous magnesium sulphate and evaporated in vacuo. The resulting oil was chromatographed on silica (pre-eluted with 1% triethylamine in hexane), and eluting with 1:1 diethyl ether:hexane. But-3-ynyl (3-n-propyloxetan-3-yl)methyl oxalate was obtained as a colourless oil (7.0 g).

reactant | Oxalyl chloride | 4.3 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | but-3-yn-1-ol | 3.5 g | C(CC#C)O | C4H6O
reactant | 3-hydroxymethyl-3-n-propyloxetane | 6.4 g | OCC1(COC1)CCC | C7H14O2
reactant | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 75 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 75 ml | ClCCl | CH2Cl2
solvent | Water | O | H2O
product | But-3-ynyl (3-n-propyloxetan-3-yl)methyl oxalate | C(C(=O)OCC1(COC1)CCC)(=O)OCCC#C | C13H18O5
